* SPD example: simple resistive chain with current sources
R1  1 0  1      ; R between node1 and GND, R=1 ohm
R2  2 0  1      ; R between node2 and GND, R=1 ohm
R3  3 0  1      ; R between node3 and GND, R=1 ohm
R12 1 2  1      ; R between node1 and node2, R=1 ohm
R23 2 3  1      ; R between node2 and node3, R=1 ohm

I1  1 0  1      ; current source injecting 1 A into node1 (to ground)
I2  2 0  0.5    ; current source injecting 0.5 A into node2
     .options   Spd  
.end
