* 3x3 Resistor Grid Netlist

* passive elements
R00 _n_00_00_  _n_25_00_  4
R01 _n_25_00_  _n_50_00_  32

R02 _n_00_00_  _n_00_25_  18
R03 _n_25_00_  _n_25_25_  15
R04 _n_50_00_  _n_50_25_  92

R05 _n_00_25_  _n_25_25_  15
R06 _n_25_25_  _n_50_25_  28

R07 _n_00_25_  _n_00_50_  33
R08 _n_25_25_  _n_25_50_  29
R09 _n_50_25_  _n_50_50_  12

R10 _n_00_50_  _n_25_50_  48
R11 _n_25_50_  _n_50_50_  90

Rg1  _n_25_00_ 0 100
Rg2  _n_50_00_ 0 100

Isrc _n_00_00_  0 10


.OPTIONS iter itol=0.00001 spd
.DC Isrc 0 11 1
.PLOT V(_n_00_00_)

*.control
*  op
*  print all > dc_op_ngspice.txt
*  dc Isrc 0 11 1
*  wrdata dc_sweep_i1_v(_n_00_00_)_ngspice.txt v(_n_00_00_)
*.endc